US05151372
Standard curve of the hydroxyacetophenone derivative
As a stock solution (5/5), 0.2 mM solution of 3,5-dichloro-4-hydroxyacetophenone was used. The solution was diluted with purified water to prepare 5-stage serial dilutions. To 0.02 ml of the solution in each concentration was mixed with 0.38 ml each of 0.1M citrate buffer solution (pH 5.4) containing 0.1% Triton X-100 and a buffer solution further supplemented with 0.3% BSA. Each absorbance was measured at 340 nm with a spectrophotometer to prepare the standard curve (FIG. 2).

reactant | 3,5-dichloro-4-hydroxyacetophenone | CC(=O)C1=CC(=C(C(=C1)Cl)O)Cl | C8H6Cl2O2
reactant | water | O | H2O
product | hydroxyacetophenone | OCC(=O)C1=CC=CC=C1 | C8H8O2
